US04766133
A solution of 45 ml of 2,3-lutidine (2,3-dimethylpyridine) and 4.3 g of copper(I) iodide in 500 ml of tetrahydrofuran is cooled to -20° and treated under argon with 31 ml of ethyl chloroformate. The reaction mixture is heated to 30° and treated dropwise within 30 minutes with 125 ml of t-butylmagnesium chloride (2.6 molar, in tetrahydrofuran). Whereby the reaction temperature amounts to 40°-45°. The ethyl 4-tert-butyl-2,3-dimethyl-1(4H)-pyridinecarboxylate obtained as the intermediate can be isolated as follows: the reaction mixture is cooled to -10° and treated with 300 ml of aqueous (20%) ammonium chloride solution, whereupon 500 ml of ether are added and the organic solution is washed several times with a 20% ammonium chloride/ammonia (1:1) solution. 2N hydrochloric acid and 10% sodium carbonate solution. The organic phase is dried and concentrated, and the residue is purified on a silica gel column. whereby the medium pressure flash chromatography method (solvent: n-hexane/ether [20:1]) is used and the pressure is produced with nitrogen gas. The ethyl 4-tert-butyl-2,3-dimethyl-1(4H)-pyridinecarboxylate (2.1 g) obtained is processed directly by heating it at 170° for 1.5 hours with 420 mg of sublimed sulphur. The reaction mixture is dissolved in 200 ml of ether, whereupon the solution is extracted with 2 N HCl and the aqueous solution is washed with ether, made alkaline with a 10% sodium carbonate solution and extracted with methylene chloride. The organic solution is dried and concentrated at normal pressure. The 4-tert-butyl-2,3-dimethylpyridine obtained is processed directly.

reactant | 2,3-lutidine | 45 ml | N1=C(C(=CC=C1)C)C | C7H9N
reactant | ethyl chloroformate | 31 ml | ClC(=O)OCC | C3H5ClO2
reactant | t-butylmagnesium chloride | 2.6 molar, 125 ml | C(C)(C)(C)[Mg]Cl
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 4.3 g | [Cu]I
product | ethyl 4-tert-butyl-2,3-dimethyl-1(4H)-pyridinecarboxylate | C(C)(C)(C)C1C(=C(N(C=C1)C(=O)OCC)C)C | C14H23NO2
